US07078428B2
7.7 cm3 of triethyl phosphonoacetate are added dropwise, while keeping the temperature below 10° C., to a suspension of 1.6 g of 60% sodium hydride in 60 cm3 of 1,2-dimethoxyethane under an inert atmosphere and cooled to 0° C., with stirring. The reaction mixture is allowed to warm to a temperature in the region of 20° C. and is then stirred for 45 minutes. 5.3 g of 3-hydroxy-2-isobutyl-2,3-dihydroisoindol-1-one are then added and the mixture is refluxed for 3.5 hours and then cooled to a temperature in the region of 20° C. The reaction mixture is treated with 40 cm3 of distilled water and then 100 cm3 of diethyl ether. After separation of the phases by settling, the aqueous phase is extracted twice with 100 cm3 of diethyl ether. The organic extracts are combined, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 18° C., to give a pale yellow oil, which is purified by chromatography under argon pressure (60 kPa), on a column of silica gel (particle size 15-40 μm), eluting with successive mixtures of cyclohexane/ethyl acetate (60/40 and then 50/50 by volume). The fractions comprising the expected product are combined and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 30° C. 6.3 g of ethyl (2-isobutyl-3oxo-2,3-dihydro-1H-isoindol-1-yl)acetate are thus obtained in the form of a pale yellow oil. (Rf=0.56, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (50/50 by volume)).

reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | 3-hydroxy-2-isobutyl-2,3-dihydroisoindol-1-one | 5.3 g | OC1N(C(C2=CC=CC=C12)=O)CC(C)C | C12H15NO2
reactant | water | 40 cm3 | O | H2O
reactant | diethyl ether | 100 cm3 | C(C)OCC | C4H10O
solvent | 1,2-dimethoxyethane | 60 cm3 | COCCOC | C4H10O2
product | ethyl (2-isobutyl-3oxo-2,3-dihydro-1H-isoindol-1-yl)acetate | 6.3 g | C(C(C)C)N1C(C2=CC=CC=C2C1=O)CC(=O)OCC | C16H21NO3
